data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_557694_1,[C:1]1([C:3]([N:6]([C:4]([H:15])([H:16])[H:17])[C:7](=[O:9])[H:14])([H:12])[H:13])([C:5]([H:18])([H:19])[H:20])[C:2]([H:10])([H:11])[O:8]1>>[C@@:1]1([C:3]([N:6]([C:4]([H:15])([H:16])[H:17])[C:7](=[O:9])[H:14])([H:12])[H:13])([C:5]([H:18])([H:19])[H:20])[C:2]([H:10])([H:11])[O:8]1,66.49993999996326
MR_210700_2,[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:14])[H:17])([O:6][O:7][C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])[O:8][H:9]>>[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:14])[H:17])([O:7][O:6][C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])[O:8][H:9],71.5745324999564
MR_319569_1,[C:1]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:9]=[C:6]([N:7]([H:11])[H:12])[N:8]([H:13])[H:14])[H:10]>>[C:1](\[C:4]([H:21])([H:22])[H:23])(=[N:9]/[C:6]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:7]([H:11])[H:12])[N:8]([H:13])[H:14])[H:10],60.17097499999821
MR_43866_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[N:6]/[C:2]([H:12])([H:13])[H:14])([O:5][H:7])([H:10])[H:11]>>[C:1](=[C:3](\[N:4]([H:8])[H:9])[N:6]([C:2]([H:12])([H:13])[H:14])[H:11])(\[O:5][H:7])[H:10],60.89699249998432
MR_157622_2,[C:1]([C:4]([C:2]1([H:9])[C:3]([H:10])([H:11])[O:8]1)([H:12])[H:13])([C:5]([H:16])([H:17])[H:18])([C:6]([H:14])([H:19])[H:20])[C:7]([H:15])([H:21])[H:22]>>[C:1]([C:4]([C:2]1([H:9])[C:3]([H:10])([H:11])[O:8]1)([H:12])[H:13])([C:5]([H:16])([H:17])[H:18])([C:6]([H:14])([H:19])[H:20])[C:7]([H:15])([H:21])[H:22],64.98327250001154
MR_672809_0,[N:1](=[C:2](/[C:3]([N:5]=[O:6])([H:9])[H:10])[O:4][H:7])\[H:8]>>[N:1]([C:2](=[C:3]([H:9])[H:10])[O:4][H:7])([N:5]=[O:6])[H:8],28.42888750002615
MR_147322_2,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][H:9])=[O:8])[C:2]([O:7][H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1](=[C:2](/[O:7][H:10])[H:11])(\[C:3]([C:5]([O:6][H:9])=[O:8])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16],72.86655499997593
MR_76638_0,[C:1]([C:2]([C:3](=[O:5])[H:6])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([H:6])[O:5][C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],58.62669750000919
MR_185154_0,[C:1]([N:2]([H:8])[H:9])(/[C:4](=[C:3](/[O:5][H:7])[H:10])[H:11])=[O:6]>>[C:1]1([N:2]([H:8])[H:9])=[C:4]([H:11])[C:3]([O:5][H:7])([H:10])[O:6]1,44.24439750000971
MR_220252_1,[C:1]([C:2]([C:4](=[O:7])[H:10])=[O:6])([N:3]([H:8])[H:9])=[O:5]>>[C:1]([C:2]([N:3]([H:8])[H:9])=[O:6])([C:4](=[O:7])[H:10])=[O:5],61.45546750003675
MR_694772_2,[C:1]([C:2]([N:4]([H:16])[H:17])([O:7][H:11])[H:14])([C:3]([C:5](=[O:9])[H:18])([O:8][H:12])[H:15])([O:6][H:10])[H:13]>>[C:1]([C:2]([N:4]([H:16])[H:17])([O:7][H:11])[H:14])([C:5]([C:3](=[O:8])[H:15])([O:9][H:12])[H:18])([O:6][H:10])[H:13],42.93543250003296
MR_526105_1,[C:1]([C:2]([H:14])([H:15])[H:17])([C:3]([H:16])([H:18])[H:19])(/[C:4](=[N:8]\[H:10])[H:11])/[C:6](=[C:5](\[O:7][H:9])[H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:17])([C:3]([H:16])([H:18])[H:19])=[C:6]([C:5](/[C:4](=[N:8]\[H:10])[H:11])([O:7][H:9])[H:12])[H:13],71.98177999999828
MR_107241_0,[C:1]1([C:2]([H:8])([H:9])[H:10])([N:4]([C:3]([H:11])([H:12])[H:13])[H:7])[O:5][O:6]1>>[C:1](\[C:2]([H:8])([H:9])[H:10])(=[N:4]\[C:3]([H:11])([H:12])[H:13])[O:5][O:6][H:7],24.9368500000324
MR_124501_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[C:5]([N:7]([H:10])[H:11])=[O:8])([C:6]([C:3]([H:17])([H:18])[H:19])=[O:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:14])([H:15])[H:16])[C:6]1([C:3]([H:17])([H:18])[H:19])[O:9][C:5]([N:7]([H:10])[H:11])=[O:8],65.32212250001209
MR_335755_0,[C:1](/[C:3](=[C:5]([C:4](\[C:2]([H:14])([H:15])[H:16])=[N:7]/[H:9])/[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C@@:3]1([O:6][H:8])[C:5]([H:10])=[C:4]([C:2]([H:14])([H:15])[H:16])[N:7]1[H:9])([H:11])([H:12])[H:13],34.72647749999908
MR_560373_1,[C:1](=[C:5](\[O:7][H:10])[H:15])(\[O:6][H:9])[N:8]=[C:2]([N:3]([H:11])[H:12])[N:4]([H:13])[H:14]>>[C:1]1([O:6][H:9])=[N:8][C:2]([N:3]([H:11])[H:12])([N:4]([H:13])[H:14])[C@@:5]1([O:7][H:10])[H:15],39.63603750001653
MR_326_0,[C:1](/[C:4](=[C:5](/[C:3]([H:14])([H:15])[H:16])[H:10])[H:9])([O:6][C:2]([H:11])([H:12])[H:13])([H:7])[H:8]>>[C:1](=[C:4]([C@@:5]([C:3]([H:14])([H:15])[H:16])([O:6][C:2]([H:11])([H:12])[H:13])[H:10])[H:9])([H:7])[H:8],59.453742500025584
MR_465690_2,[C:1]([C:5](=[C:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])/[C:4]([N:8]([H:14])[H:15])=[C:9](\[C:2]([H:20])([H:21])[H:22])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:5]1=[C:4]([N:8]([H:14])[H:15])[C:9]([C:2]([H:20])([H:21])[H:22])([H:16])[C:3]1([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])([H:17])([H:18])[H:19],41.30330500001605
MR_640471_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:7]([C:4]([H:18])([H:19])[H:20])=[C:8]([C:5]([H:21])([H:22])[H:23])[C:6]([H:24])([H:25])[H:26])/[N:9]=[N:10]/[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[C:7]([C:4]([H:18])([H:19])[H:20])(/[N:9]=[N:10]/[H:11])[C:8]1([C:5]([H:21])([H:22])[H:23])[C:6]([H:24])([H:25])[H:26],68.69305249995492
